### PR TITLE
[Merged by Bors] - feat(Data/Finset/Powerset): disjointness lemmas for `powersetCard_finset` et al

### PR DESCRIPTION
**Pull request by mo271**
Add disjointness lemmas for `Finset.powersetCard`:
- `Disjoint.powersetCard_powersetCard`: `powersetCard` of disjoint sets are disjoint for positive cardinality
- `Finset.disjoint_powersetCard_of_ne`: `powersetCard` of distinct cardinalities are disjoint
- Simplify some proofs using `disjoint_powersetCard_of_ne`
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Powerset.lean [hunk 1]
```diff
@@ -269,6 +269,15 @@ lemma powersetCard_eq_empty : powersetCard n s = ∅ ↔ s.card < n := by
...
     s.powersetCard (s.card + n) = ∅ := by simpa
 
+lemma Disjoint.powersetCard_powersetCard {s t : Finset α}
+    (h : Disjoint s t) {n : ℕ} (hn : 0 < n) :
+    Disjoint (powersetCard n s) (powersetCard n t) := by
+  rw [disjoint_left]
+  intro u hu hv
+  rw [mem_powersetCard] at hu hv
+  obtain ⟨x, hx⟩ := card_pos.mp (hu.2.symm ▸ hn)
+  exact disjoint_left.1 h (hu.1 hx) (hv.1 hx)
```
Comment (wwylele) [inline Mathlib/Data/Finset/Powerset.lean:279]: How about a slight generalization to allow different cardinality? This makes the hypothesis asymmetrical , though, as the proof only uses positivity on one side. I also changed `0 < n` to `n ≠ 0` following the principle that input hypothesis prefers the "easier" condition.
```suggestion
lemma Disjoint.powersetCard_powersetCard {s t : Finset α}
    (h : Disjoint s t) {n : ℕ} (hn : n ≠ 0) (m : ℕ) :
    Disjoint (powersetCard n s) (powersetCard m t) := by
  rw [disjoint_left]
  intro u hu hv
  rw [mem_powersetCard] at hu hv
  obtain ⟨x, hx⟩ := card_pos.mp (hu.2.symm ▸ Nat.pos_of_ne_zero hn)
  exact disjoint_left.1 h (hu.1 hx) (hv.1 hx)
```

File: Mathlib/Data/Finset/Powerset.lean [hunk 2]
```diff
@@ -269,6 +269,15 @@ lemma powersetCard_eq_empty : powersetCard n s = ∅ ↔ s.card < n := by
 @[simp] lemma powersetCard_card_add (s : Finset α) (hn : 0 < n) :
     s.powersetCard (s.card + n) = ∅ := by simpa
 
+lemma Disjoint.powersetCard_powersetCard {s t : Finset α}
```
Comment (CoolRmal) [inline Mathlib/Data/Finset/Powerset.lean]:
```suggestion
lemma _root_.Disjoint.powersetCard_powersetCard {s t : Finset α}
```

Also is there a reason why you put this lemma here? I think it makes more sense to put it next to the other lemmas about disjointness.

File: Mathlib/Data/Finset/Powerset.lean [hunk 3]
```diff
@@ -296,10 +305,16 @@ theorem powersetCard_self (s : Finset α) : powersetCard s.card s = {s} := by
   · rintro rfl
     simp
 
+lemma disjoint_powersetCard_of_ne {m n : ℕ} (h : m ≠ n) (s t : Finset α) :
+    Disjoint (powersetCard m s) (powersetCard n t) := by
+  rw [disjoint_left]
+  intro x hx hy
+  rw [mem_powersetCard] at hx hy
+  exact h (hx.2.symm.trans hy.2)
```
Comment (CoolRmal) [inline Mathlib/Data/Finset/Powerset.lean]:
```suggestion
  grind [disjoint_left]
```
or 

```suggestion
  aesop (add simp [disjoint_left])
```
The aesop proof also works in the multiset setting.

File: Mathlib/Data/Finset/Powerset.lean [hunk 4]
```diff
@@ -269,6 +269,15 @@ lemma powersetCard_eq_empty : powersetCard n s = ∅ ↔ s.card < n := by
...
     s.powersetCard (s.card + n) = ∅ := by simpa
 
+lemma Disjoint.powersetCard_powersetCard {s t : Finset α}
+    (h : Disjoint s t) {n : ℕ} (hn : n ≠ 0) (m : ℕ) :
+    Disjoint (powersetCard n s) (powersetCard m t) := by
+  rw [disjoint_left]
+  intro u hu hv
+  rw [mem_powersetCard] at hu hv
+  obtain ⟨x, hx⟩ := card_pos.mp (hu.2.symm ▸ Nat.pos_of_ne_zero hn)
+  exact disjoint_left.1 h (hu.1 hx) (hv.1 hx)
```
Comment (CoolRmal) [inline Mathlib/Data/Finset/Powerset.lean]:
```suggestion
  grind [disjoint_left]
```

**Review by CoolRmal — COMMENTED** [review]
For the completeness of APIs maybe you can also include the corresponding lemmas for [Multiset.powersetCard](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Powerset.html#Multiset.powersetCard) (but you cannot really use grind for the Multiset version of`Disjoint.powersetCard_powersetCard`). But I guess this is optional.

**Comment by CoolRmal** [comment]
awaiting-author

File: Mathlib/Data/Finset/Powerset.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/Data/Finset/Powerset.lean]: I will move it down a bit to the other disjointness lemma

Comment (mo271) [reply Mathlib/Data/Finset/Powerset.lean]: done

**Comment by mo271** [comment]
> For the completeness of APIs maybe you can also include the corresponding lemmas for [Multiset.powersetCard](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Powerset.html#Multiset.powersetCard) (but you cannot really use grind for the Multiset version of`Disjoint.powersetCard_powersetCard`). But I guess this is optional.

Added analogous lemmas for the Multiset version. Not entirely sure about name(spaces): 
Put both in `_root_.` now as suggested, adding `_multiset` for the multiset version. Does that make sense?

File: Mathlib/Data/Finset/Powerset.lean [hunk 5]
```diff
@@ -296,10 +296,18 @@ theorem powersetCard_self (s : Finset α) : powersetCard s.card s = {s} := by
   · rintro rfl
     simp
 
+lemma _root_.Disjoint.powersetCard_powersetCard {s t : Finset α}
```
Comment (CoolRmal) [inline Mathlib/Data/Finset/Powerset.lean]:
```suggestion
lemma _root_.Disjoint.powersetCard_powersetCard_finset {s t : Finset α}
```
I think this makes sense according to the pattern I found 
- [Disjoint.notMem_of_mem_left_finset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Disjoint.html#Disjoint.notMem_of_mem_left_finset)
- [Disjoint.notMem_of_mem_left_multiset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/UnionInter.html#Disjoint.notMem_of_mem_left_multiset)

File: Mathlib/Data/Multiset/Powerset.lean [hunk 6]
```diff
@@ -307,10 +307,26 @@ theorem powersetCard_map {β : Type*} (f : α → β) (n : ℕ) (s : Multiset α
...
+  obtain ⟨x, hx⟩ := card_pos_iff_exists_mem.mp (hu.2.symm ▸ Nat.pos_of_ne_zero hn)
+  exact disjoint_left.1 h (mem_of_le hu.1 hx) (mem_of_le hv.1 hx)
+
+lemma disjoint_powersetCard_of_ne {m n : ℕ} (h : m ≠ n) (s t : Multiset α) :
+    Disjoint (powersetCard m s) (powersetCard n t) := by
+  rw [disjoint_left]
+  rintro u hu hv
+  obtain ⟨-, rfl⟩ := mem_powersetCard.mp hu
+  obtain ⟨-, rfl⟩ := mem_powersetCard.mp hv
+  exact h rfl
```
Comment (CoolRmal) [inline Mathlib/Data/Multiset/Powerset.lean]:
```suggestion
  aesop (add simp [disjoint_left])
```

**Review by CoolRmal — COMMENTED** [review]
maintainer merge

File: Mathlib/Data/Finset/Powerset.lean [hunk 7]
```diff
@@ -296,10 +296,18 @@ theorem powersetCard_self (s : Finset α) : powersetCard s.card s = {s} := by
   · rintro rfl
     simp
 
+lemma _root_.Disjoint.powersetCard_powersetCard_finset {s t : Finset α}
+    (h : Disjoint s t) {n : ℕ} (hn : n ≠ 0) (m : ℕ) :
```
Comment (ocfnash) [inline Mathlib/Data/Finset/Powerset.lean]: How about:
```suggestion
    (h : Disjoint s t) {m : ℕ} (hn : n ≠ 0 ∨ m ≠ 0) :
```

File: Mathlib/Data/Finset/Powerset.lean [hunk 8]
```diff
@@ -296,10 +296,18 @@ theorem powersetCard_self (s : Finset α) : powersetCard s.card s = {s} := by
...
+    Disjoint (powersetCard n s) (powersetCard m t) := by
+  grind [disjoint_left]
+
```
Comment (ocfnash) [inline Mathlib/Data/Finset/Powerset.lean:303]: While we're adding this, how about we add:
```lean

lemma powersetCard_inter [DecidableEq α] (s t : Finset α) :
    powersetCard n s ∩ powersetCard n t = powersetCard n (s ∩ t):= by
  grind

```

File: Mathlib/Data/Finset/Powerset.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Data/Finset/Powerset.lean]: Similarly in the other lemmas below

**Review by ocfnash — APPROVED** [review]
Thanks, two minor suggestions which I'm happy to let the author decide

bors d+

File: Mathlib/Data/Finset/Powerset.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/Data/Finset/Powerset.lean]: done

File: Mathlib/Data/Finset/Powerset.lean (hunk 8 above)
Comment (mo271) [reply Mathlib/Data/Finset/Powerset.lean:303]: done

File: Mathlib/Data/Finset/Powerset.lean [hunk 9]
```diff
@@ -296,10 +296,22 @@ theorem powersetCard_self (s : Finset α) : powersetCard s.card s = {s} := by
...
 
+lemma _root_.Disjoint.powersetCard_powersetCard_finset {s t : Finset α}
+    (h : Disjoint s t) {m : ℕ} (hn : n ≠ 0 ∨ m ≠ 0) :
+    Disjoint (powersetCard n s) (powersetCard m t) := by
+  grind [disjoint_left]
+
+lemma powersetCard_inter [DecidableEq α] (s t : Finset α) :
+    powersetCard n s ∩ powersetCard n t = powersetCard n (s ∩ t):= by
+  grind
+
```
Comment (wwylele) [inline Mathlib/Data/Finset/Powerset.lean]: Looks like this has lemma has been added from another recent PR
```suggestion
```
